US06127541
4-Benzylaminobenzonitrile
4-Fluorobenzonitrile (6.0 g, 49.5 mmol) was dissolved in acetonitrile (60 ml), and benzylamine (10.6 g, 98.9 mmol) was added thereto, followed by stirring at 100° C. for 3 days. To complete the reaction, benzylamine (21.2 g, 198 mmol) was further added thereto, followed by stirring at 100° C. for 1 day. The solvent was removed under reduced pressure, water was added to the resulting residue, and the mixture was extracted with chloroform. After the organic layer was dried (over anhydrous magnesium sulfate), the drying agent was filtered off, and the filtrate was concentrated under reduced pressure. The resulting oily substances were purified by silica gel column chromatography (the substances were eluted with an increasing concentration of chloroform from chloroform/hexane=1/2 to chloroform/hexane=1/1) to give the title compound (7.42 g, 72%) as oily substances.

reactant | 4-Fluorobenzonitrile | 49.5 mmol, 6.0 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | benzylamine | 98.9 mmol, 10.6 g | C(C1=CC=CC=C1)N | C7H9N
reactant | benzylamine | 198 mmol, 21.2 g | C(C1=CC=CC=C1)N | C7H9N
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 4-Benzylaminobenzonitrile | 7.42 g, 72% | C(C1=CC=CC=C1)NC1=CC=C(C#N)C=C1 | C14H12N2
